US07091228B2
To a solution of methyl trans-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclobutanecarboxylate (80 mg, 0.25 mmol) in n-butanol (8 mL) was added 2-chloro-5,7-difluoro-1,3-benzothiazole (102 mg, 0.49 mmol) and HCl (4.0 M in dioxane, 0.2 mL). The resulting reaction mixture was heated at 90° C. overnight. The mixture was evaporated to dryness, and the residue was brought up in MeOH. Then 1 N aqueous NaOH (2.0 mL, 2.0 mmol) was added, and the reaction mixture was stirred at 50° C. overnight. The reaction mixture was concentrated and the residue was suspended in water. Conc. HCl was added to adjust the acidity to pH 1, and the suspension was extracted with EtOAc. The combined organic phases were washed with brine, dried over sodium sulfate, filtered, and concentrated. The residue was brought up in MeOH, and the precipitate was collected by filtration and dried under vacuum oven to afford trans-2-({4′-[(5,7-difluoro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}carbonyl)cyclopentanecarboxylic acid (65 mg, 58%). LC-MS ret. time 3.75; m/z 479.2 (MH+). 1H NMR (400 MHz, DMSO-d6) δ 1.55–1.84 (m, 4H), 2.01 (m, 1H), 2.18 (m, 1H), 3.22 (q, 1H), 4.09 (q, 1H), 7.15 (m, 1H), 7.40 (m, 1H), 7.83 (m, 4H), 7.87 (d, 2H), 8.05 (d, 2H), 11.00 (s, 1H), 12.12 (s, 1H).

reactant | methyl trans-2-[(4′-amino-1,1′-biphenyl-4-yl)carbonyl]cyclobutanecarboxylate | 0.25 mmol, 80 mg | NC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)[C@H]1[C@@H](CC1)C(=O)OC | C19H19NO3
reactant | 2-chloro-5,7-difluoro-1,3-benzothiazole | 0.49 mmol, 102 mg | ClC=1SC2=C(N1)C=C(C=C2F)F | C7H2ClF2NS
reactant | HCl | 4.0 M, 0.2 mL | Cl | ClH
reactant | NaOH | 2.0 mmol, 1 N, 2.0 mL | [OH-].[Na+]
reactant | n-butanol | 8 mL | C(CCC)O | C4H10O
product | trans-2-({4′-[(5,7-difluoro-1,3-benzothiazol-2-yl)amino]-1,1′-biphenyl-4-yl}carbonyl)cyclopentanecarboxylic acid | 65 mg, 58% | FC=1C=C(C2=C(N=C(S2)NC2=CC=C(C=C2)C2=CC=C(C=C2)C(=O)[C@H]2[C@@H](CCC2)C(=O)O)C1)F | C26H20F2N2O3S
